US07858675B2
Benzoin, hydroxyl acetone and cobalt-acetate were bought from Aldrich and used as received. 13-Hydroxy-12-tetracosanone, poly-suberhydroxyketone and 1,2-bis(4-butylphenyl)-2-hydroxy-1-ethanone were prepared according to the following procedures.

reactant | Benzoin | C1(=CC=CC=C1)C(=O)C(O)C1=CC=CC=C1 | C14H12O2
reactant | hydroxyl acetone | OCC(C)=O | C3H6O2
reactant | 13-Hydroxy-12-tetracosanone | OC(C(CCCCCCCCCCC)=O)CCCCCCCCCCC | C24H48O2
catalyst | cobalt-acetate | CC(=O)[O-].CC(=O)[O-].[Co+2]
product | 1,2-bis(4-butylphenyl)-2-hydroxy-1-ethanone | C(CCC)C1=CC=C(C=C1)C(C(O)C1=CC=C(C=C1)CCCC)=O | C22H28O2
